US09079866B2
5-{2-Fluoro-4-[2-(1-methylethoxy)pyridin-3-yl]phenyl}pyrimidin-2-amine
To a microwave vial the following were added 5-(4-chloro-2-fluorophenyl)-pyrimidin-2-amine (50 mg, 0.22 mmol), (2-isopropoxypyridin-3-yl)boronic acid (51 mg, 0.28 mmol) and X-Phos precatalyst (4 mg, 0.005 mmol). The vial was flushed with nitrogen and then THF (0.5 mL) and 0.5 M K3PO4 (0.9 mL) were added. Both THF and the K3PO4 solution were sparged separately for 30 min prior to use. The resulting biphasic mixture was stirred at rt overnight. The reaction mixture was then poured into sat. NaHCO3 (50 mL) and extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with water (1×50 mL) and brine (1×50 mL), dried (Na2SO4) and concentrated to dryness. The crude product was purified by HPLC to give the title compound (35 mg, 48%). MS (ESI): mass calcd. for C18H17FN4O, 324.14; m/z found, 325.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.57 (d, J=1.4, 2H), 8.21-8.13 (m, 1H), 7.68-7.60 (m, 1H), 7.50-7.36 (m, 3H), 6.99-6.91 (m, 1H), 5.51-5.37 (m, 1H), 5.15 (s, 2H), 1.38 (d, J=6.2, 6H).

reactant | 5-(4-chloro-2-fluorophenyl)-pyrimidin-2-amine | 0.22 mmol, 50 mg | ClC1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C10H7ClFN3
reactant | (2-isopropoxypyridin-3-yl)boronic acid | 0.28 mmol, 51 mg | C(C)(C)OC1=NC=CC=C1B(O)O | C8H12BNO3
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
product | 5-{2-Fluoro-4-[2-(1-methylethoxy)pyridin-3-yl]phenyl}pyrimidin-2-amine | 35 mg, 48% | FC1=C(C=CC(=C1)C=1C(=NC=CC1)OC(C)C)C=1C=NC(=NC1)N | C18H17FN4O
